US04431627
The 4-aminobenzil may be prepared according to the method of Augl et al, Annu. Conf., SPE, Reinf. Plastic/Compos. Div. Proc., 26th, 19D, 1 (1971). The 4-aminobenzil is rearranged to yield 4-aminobenzilic acid which is in turn esterfied to produce the ethyl ester. The ethyl ester of the 4-aminobenzilic acid is then reacted with quinuclidin-3-ol to give the expected 3-quinuclidinyl 4-aminobenzilate (4-amino-QNB). The purified 4-amino-QNB is then converted to the 4-triazeno-QNB according to the procedure reported by Tewson et al, J. Nucl. Med. 20, 671 (1979). The purified 4-triazeno-QNB is then reacted with iodide or a desired gamma-emitting radionuclide to produce the desired product.

reactant | 4-aminobenzilic acid | NC1=CC=C(C(C(=O)O)(O)C2=CC=CC=C2)C=C1 | C14H13NO3
reactant | quinuclidin-3-ol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-quinuclidinyl 4-aminobenzilate | NC1=CC=C(C(C(=O)OC2CN3CCC2CC3)(O)C3=CC=CC=C3)C=C1 | C21H24N2O3
